US04196127
2,5-Diethoxybenzaldehyde (24 g., 0.124 mole) and diethyl malonate (20 g., 0.125 mole) are added to a solution of piperidine (3.0 g.) and glacial acetic acid (6 ml.) in benzene (160 ml.). The mixture is heated under reflux utilizing a Dean-Stark water separator until water ceased to be separated. After 8 hours of distillation 2.3 ml. of water out of a theoretical yield of 2.23 ml. are obtained and the reaction mixture cooled. The cooled reaction mixture is washed with aqueous hydrochloric acid (6 N, 70 ml.) water (70 ml.) and aqueous sodium bicarbonate (5% w/w,50 ml.). The organic layer is separated, dried over magnesium sulfate, filtered, and the solvent removed under reduced pressure to yield a yellow oil (42.7 g., 0.127 mole, 100%). Trituration with petroleum ether yields diethyl 2,5-Diethoxybenzylidenemalonate (38.4 g., 0.114 mole, 92%) m.p. (from petroleum ether) 52°-53° C. I.R.: 1720 cm-1 mass spec m/e 336.

reactant | 2,5-Diethoxybenzaldehyde | 0.124 mole, 24 g | C(C)OC1=C(C=O)C=C(C=C1)OCC | C11H14O3
reactant | diethyl malonate | 0.125 mole, 20 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 3.0 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 160 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | diethyl 2,5-Diethoxybenzylidenemalonate | 0.114 mole, 38.4 g, 92% | C(C)OC1=C(C=C(C(=O)OCC)C(=O)OCC)C=C(C=C1)OCC | C18H24O6
